US08685980B2
Following Buchwald Method B, 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (101 mg, 0.35 mmol) and N-{(E)-2-[(S)-3-(tert-butyl-dimethyl-silanyloxy)-pyrrolidin-1-yl]-vinyl}-acrylamidine (153 mg, 0.52 mmol), followed by deprotection with TBAF to give 7-cyclopentyl-2-[5-((S)-3-hydroxy-pyrrolidin-1-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (98 mg, 65%). MS (ESI) m/z 436.3 (M+H)+

reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.35 mmol, 101 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | N-{(E)-2-[(S)-3-(tert-butyl-dimethyl-silanyloxy)-pyrrolidin-1-yl]-vinyl}-acrylamidine | 0.52 mmol, 153 mg | C(C)(C)(C)[Si](O[C@@H]1CN(CC1)/C=C/NC(C=C)=N)(C)C | C15H29N3OSi
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 7-cyclopentyl-2-[5-((S)-3-hydroxy-pyrrolidin-1-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 98 mg, 65% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2C[C@H](CC2)O)N1C1CCCC1)C | C23H29N7O2
